*****************************************************************
* NXP PSMN1R4-40YLD
*
* Polarity N-Channel
* Ratings 40V/1.400000E-003OHMS/100A
*
* Date Created Fri May 30 04:10:08 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R4-40YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000675447681561381 TC=0.00594014596857958,2.34762871402258E-05
RBD 9 4 0.000318093984874334 TC=0.00594014596857958,2.34762871402258E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.33013703659249e-09
RG 1 2 1.099548

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	5306.23
+ -10	5301.55
+ -8	5294.52
+ -6	5282.27
+ -5	5270.22
+ -4	5244.77
+ -3	5135.1
+ -2	4282.57
+ -1	2473.97
+ -0.5	1700.55
+ -0.2	1466.69
+ -0.1	1461.97
+ 0	1376.5592
+ 0.1	1249.958
+ 0.2	1248.2312
+ 0.5	1105.8512
+ 1	940.12104
+ 2	730.30368
+ 3	595.55988
+ 4	497.7604
+ 5	441.7068
+ 6	410.85628
+ 8	373.11652
+ 10	350.27296
+ 12	334.4728
+ 15	317.73352
+ 16	313.09248
+ 20	299.1012
+ 25	287.34552



.MODEL MINT NMOS(Vto=2.49408557149075 Kp=1.320679e+003 Nfs=550000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.06931047852789e-12
+ N=1 M=0.6 VJ=0.83 Fc=0.5 Cjo=7.502478e-09 Tt=2.5416e-08)

.ENDS

